US09085555B2
(3-Acetyl-6-cyano-pyrrolo[2,3-b]pyridin-1-yl)-acetic acid
was prepared using similar procedures as described for the synthesis of (3-acetyl-6-methoxy-pyrrolo[2,3-b]pyridin-1-yl)-acetic acid in Scheme A15 from 1H-pyrrolo[2,3-b]pyridine-6-carbonitrile. MS (UPLC/MS): 244.1 [M+H]+, 242.1 [M−H]−; tR (HPLC conditions f): 1.42 min.

reactant | (3-acetyl-6-methoxy-pyrrolo[2,3-b]pyridin-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=NC(=CC=C21)OC)CC(=O)O | C12H12N2O4
reactant | 1H-pyrrolo[2,3-b]pyridine-6-carbonitrile | N1C=CC=2C1=NC(=CC2)C#N | C8H5N3
product | (3-Acetyl-6-cyano-pyrrolo[2,3-b]pyridin-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=NC(=CC=C21)C#N)CC(=O)O | C12H9N3O3
